US09212187B2
1-Ethyl-7-({N-(2-methoxymethylpyridin-3-ylmethyl)-N-[2-(7-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione dihydrochloride
4 M HCl/AcOEt (90 μl) was added to an ethyl acetate solution (1 ml) of 1-ethyl-7-({(2-methoxymethylpyridin-3-ylmethyl)-[2-(7-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (26 mg) and stirred for 5 minutes at room temperature. The resulting precipitate was collected and washed with ether to give the title compound as a white powder (14 mg).

reactant | HCl AcOEt | 4 M, 90 μl | Cl.CCOC(=O)C
reactant | 1-ethyl-7-({(2-methoxymethylpyridin-3-ylmethyl)-[2-(7-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 26 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C(=C2)C)OC=C1)=O)CC=1C(=NC=CC1)COC | C33H39N5O5
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 1-Ethyl-7-({N-(2-methoxymethylpyridin-3-ylmethyl)-N-[2-(7-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione dihydrochloride | 14 mg | Cl.Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C(=C2)C)OC=C1)=O)CC=1C(=NC=CC1)COC | InChI=1S/C33H39N5O5.2ClH/c1-7-38-27-11-10-23(17-28(27)35(5)31(40)33(3,4)32(38)41)19-36(20-24-9-8-13-34-26(24)21-42-6)14-15-37-18-22(2)29-25(30(37)39)12-16-43-29;;/h8-13,16-18H,7,14-15,19-21H2,1-6H3;2*1H
